US07582760B2
4-[1-(3-Fluoro-benzyl)-2,3-dioxo-2,3-dihydro-1H-indol-4-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (930 mg) was dissolved in 17 ml each of hydrazine and ethanol, and the solution was heated at 110° C. for 16 hours. The reaction was cooled and partitioned between water and ethyl acetate, and the organic phase was dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by chromatography to afford 146 mg of 4-[1-(3-fluoro-benzyl)-2-oxo-2,3-dihydro-1H-indol-4-yl]-piperidine-1-carboxylic acid tert-butyl ester. MS: 423 (M−H)−.

reactant | 4-[1-(3-Fluoro-benzyl)-2,3-dioxo-2,3-dihydro-1H-indol-4-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 930 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=C2C(C(N(C2=CC=C1)CC1=CC(=CC=C1)F)=O)=O | C25H25FN2O4
solvent | hydrazine | 17 ml | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 4-[1-(3-fluoro-benzyl)-2-oxo-2,3-dihydro-1H-indol-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | 146 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C2CC(N(C2=CC=C1)CC1=CC(=CC=C1)F)=O | C25H29FN2O3
